US08865935B2
A total amount of Boc-Lys(Cbz)-OMe was dissolved in a mixed solvent of 40 ml of ethyl acetate and 40 ml of methanol, and then the resultant solution was stirred at room temperature for 4 hours under a hydrogen atmosphere while gradually adding 0.223 g of Pd/C. The reaction product was passed through 3.56 g of celite (Sigma Aldrich) to remove Pd/C, and was then washed with 20 ml of methanol (MeOH) two times to obtain a filtrate. The filtrate was evaporated to obtain light viscous solid Boc-Lys-OMe.

reactant | Boc-Lys(Cbz)-OMe | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C20H30N2O6
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 40 ml | CO | CH4O
catalyst | Pd/C | 0.223 g | [Pd] | Pd
product | Boc-Lys-OMe | N([C@@H](CCCCN)C(=O)OC)C(=O)OC(C)(C)C | C12H24N2O4
